US07951810B2
Step a: (6aR,8R,9S,9aR)-8-(6-chloro-9H-purin-9-yl)-2,2,4,4-tetraisopropylhexahydrocyclopenta[f][1,3,5,2,4]trioxadisilocin-9-ol
To a solution of (1R,2S,3R,5R)-3-(6-chloro-purin-9-yl)-5-hydroxymethylcyclopentane-1,2-diol (Shealy, Y. F.; Clayton, J. D. J. Am. Chem. Soc. 1969, 91, 3075-308) (0.44 g, 1.55 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.461 mL, 3.1 mmol) in AcCN (15 mL) was added 1,3-dichloro-1,1,3,3-tetraisopropyldisiloxane (0.581 mL, 1.8 mmol). The reaction mixture was stirred at room temperature for 14 h then concentrated. The residue was purified by flash chromatography (0 to 50% EtOAc/hexanes) to afford the title compound (0.545 g, 67%)

reactant | (1R,2S,3R,5R)-3-(6-chloro-purin-9-yl)-5-hydroxymethylcyclopentane-1,2-diol | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)CO)O)O | C11H13ClN4O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.1 mmol, 0.461 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 1,3-dichloro-1,1,3,3-tetraisopropyldisiloxane | 1.8 mmol, 0.581 mL | Cl[Si](O[Si](C(C)C)(C(C)C)Cl)(C(C)C)C(C)C | C12H28Cl2OSi2
solvent | AcCN | 15 mL | C(=O)(C)C#N | C3H3NO
product | (6aR,8R,9S,9aR)-8-(6-chloro-9H-purin-9-yl)-2,2,4,4-tetraisopropylhexahydrocyclopenta[f][1,3,5,2,4]trioxadisilocin-9-ol | 0.545 g, 67% | ClC1=C2N=CN(C2=NC=N1)[C@@H]1C[C@H]2[C@@H](O[Si](O[Si](OC2)(C(C)C)C(C)C)(C(C)C)C(C)C)[C@H]1O | C23H39ClN4O4Si2
